US03957766
1-methyl-2-[2,8-dimethyl-7-(5-nitro-2-furyl)-s-triazolo[2,3-c]pyrimidinyl-5-]-imino-pyrrolidine (m.p. 244° - 246°C.) from the N-methyl-pyrrolidone-(2)-phosphorus oxychloride adduct and 2,8-dimethyl-5-amino-7-(5-nitro-2-furyl)-s-triazolo[2,3-c]pyrimidine; the latter compound (m.p. 290° - 295°C.) used as starting material was obtained by chlorinating 2-acetamido-4-(2-furyl)-5-methyl-6(1H)-pyrimidinone and the intermediate obtained (m.p. 155° - 160°C.) reacted with hydrazine hydrate to give 2-amino-4-(2-furyl)-6-hydrazino-5-methyl-pyrimidine (m.p. 220° - 222°C.) which was cyclised with orthoacetic acid triethyl ester, the intermediate obtained then nitrated to give 5-amino3,8-dimethyl-7-(5-nitro-2-furyl)-s-triazolo[4,3-c]pyrimidine (m.p. 290°C.; decomp.) which was heated in ethanol saturated with hydrogen chloride;

reactant | 2,8-dimethyl-5-amino-7-(5-nitro-2-furyl)-s-triazolo[2,3-c]pyrimidine | CC=1N=C2N(C(=NC(=C2C)C=2OC(=CC2)[N+](=O)[O-])N)N1 | C11H10N6O3
reactant | 2-acetamido-4-(2-furyl)-5-methyl-6(1H)-pyrimidinone | C(C)(=O)NC=1NC(C(=C(N1)C=1OC=CC1)C)=O | C11H11N3O3
reactant | hydrazine hydrate | O.NN
product | 2-amino-4-(2-furyl)-6-hydrazino-5-methyl-pyrimidine | NC1=NC(=C(C(=N1)C=1OC=CC1)C)NN | C9H11N5O
